US09216972B2
To a solution of (E)-ethyl 3-(1-(4-fluorophenyl)cyclohexyl)acrylate (Intermediate I-7B, 1 g, 3.62 mmol) in methanol (25 mL) was added 10% Pd/C (˜0.5 g, wet 50%) under argon, and the mixture was stirred under hydrogen atmosphere (50 psi) for 16 hrs. The reaction mixture was filtered through CELITE® and evaporated to give the desired ethyl 3-(1-(4-fluorophenyl)cyclohexyl)propanoate (1 g, 99% yield) as an oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.25 (2H, dd, J=9.02, 5.28 Hz), 7.00 (2H, t, J=8.80 Hz), 4.02 (2H, q, J=7.26 Hz), 2.00-2.08 (2H, m), 1.89-1.96 (2H, m), 1.81-1.87 (2H, m), 1.34-1.61 (8H, m), 1.18 (3H, t, J=7.15 Hz).

reactant | (E)-ethyl 3-(1-(4-fluorophenyl)cyclohexyl)acrylate | 3.62 mmol, 1 g | FC1=CC=C(C=C1)C1(CCCCC1)/C=C/C(=O)OCC | C17H21FO2
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | ˜0.5 g | [Pd] | Pd
product | ethyl 3-(1-(4-fluorophenyl)cyclohexyl)propanoate | 1 g, 99% yield | FC1=CC=C(C=C1)C1(CCCCC1)CCC(=O)OCC | C17H23FO2
